US07745484B2
Step 3: (4S,5S)-tert-butyl 4-((2-chloro-6-methylpyridin-4-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate
(4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-4-((2-chloro-6-methylpyridin-4-yl)methyl)-2,2-dimethyloxazolidine-3-carboxylate (0.206 g, 0.425 mmol) was dissolved in THF (4 mL) and cooled to 0° C. TBAF (0.637 ml, 0.637 mmol) was added to the mixture dropwise and the reaction was stirred 1 hr and then quenched with saturated ammonium chloride and diluted with EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with water, brine, dried over sodium sulfate, and concentrated. The crude material was purified by silica column chromatography (19:1 DCM/MeOH) and then reverse phase HPLC to give the title compound. MS m/z: 371.3 (100%, M+1).

reactant | (4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-4-((2-chloro-6-methylpyridin-4-yl)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.425 mmol, 0.206 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=CC(=NC(=C1)C)Cl | C24H41ClN2O4Si
reactant | TBAF | 0.637 mmol, 0.637 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (4S,5S)-tert-butyl 4-((2-chloro-6-methylpyridin-4-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate | ClC1=NC(=CC(=C1)C[C@@H]1N(C(O[C@@H]1CO)(C)C)C(=O)OC(C)(C)C)C | C18H27ClN2O4
